US07795236B2
8-(3′-Hydroxybiphenyl-4-ylmethylamino)adenosine
A mixture of 8-(3′-benzyloxybiphenyl-4-ylmethyl-amino)adenosine (0.103 g) and 10% palladium on carbon (55.4 wt % H2O, 0.047 g) in methanol (7.4 mL) was stirred at room temperature for 17.5 hours under a hydrogen atmosphere. The insoluble material was filtered out and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=8/1 to 6/1) to give the title compound (0.081 g).

reactant | 8-(3′-benzyloxybiphenyl-4-ylmethyl-amino)adenosine | 0.103 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC=C(C=C1)CNC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C30H30N6O5
catalyst | palladium on carbon | 0.047 g | [Pd] | Pd
solvent | methanol | 7.4 mL | CO | CH4O
product | 8-(3′-Hydroxybiphenyl-4-ylmethylamino)adenosine | 0.081 g | OC=1C=C(C=CC1)C1=CC=C(C=C1)CNC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C23H24N6O5
